US06252084B1
2-Bromo-5-methoxy-!-(phenylmethyl)-1H-indole-3-acetic acid benzyl ester. N-Bromosuccinimide (450 mg, 2.5 mmol) was added to 910 mg (2.5 mmol) of 5-methoxy-1-phenylmethyl)-1H-indole-3-acetic acid benzyl ester in 75 mL of carbon tetrachloride and the mixture stirred for 0.5 hour. After washing with Na2S2O3 solution, water and saturated NaCl solution and drying (Na2SO4), the CCl4 was removed at reduced pressure. The residue was chromatographed on silica (eluted with methylene chloride) and crystallized from ether/hexane to give 765 mg (67% yield) of 2-bromo-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid benzyl ester, mp, 89-90° C.

reactant | (phenylmethyl)-1H-indole-3-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1=CN(C2=CC=CC=C12)CC1=CC=CC=C1)=O | C24H21NO2
reactant | N-Bromosuccinimide | 2.5 mmol, 450 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 1H-indole-3-acetic acid benzyl ester | C(C1=CC=CC=C1)OC(CC1=CNC2=CC=CC=C12)=O | C17H15NO2
solvent | carbon tetrachloride | 75 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-bromo-5-methoxy-1-(phenylmethyl)-1H-indole-3-acetic acid benzyl ester | 765 mg, 67% yield | C(C1=CC=CC=C1)OC(CC1=C(N(C2=CC=C(C=C12)OC)CC1=CC=CC=C1)Br)=O | C25H22BrNO3
